US08044068B2
Synthesis of (3RS,4RS)-4-(4-dimethylamino-6-methylpyrimidin-2-ylamino)pyrrolidin-3-ol dihydrochloride
t-Butyl (3RS,4RS)-3-(4-dimethylamino-6-methylpyrimidin-2-ylamino)-4-hydroxypyrrolidine-1-carboxylate (1.0 g) was dissolved in ethyl acetate (10 mL), followed by addition of a solution (7.5 mL) of 4 M HCl in ethyl acetate, and the mixture was stirred at room temperature for 2 h. Diethyl ether was added to the solution, and the precipitated crystals were collected by filtration to obtain the title compound (0.89 g).

reactant | t-Butyl (3RS,4RS)-3-(4-dimethylamino-6-methylpyrimidin-2-ylamino)-4-hydroxypyrrolidine-1-carboxylate | 1.0 g | CN(C1=NC(=NC(=C1)C)NC1CN(CC1O)C(=O)OC(C)(C)C)C | C16H27N5O3
reactant | HCl | 4 M, 7.5 mL | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (3RS,4RS)-4-(4-dimethylamino-6-methylpyrimidin-2-ylamino)pyrrolidin-3-ol dihydrochloride | 0.89 g | Cl.Cl.CN(C1=NC(=NC(=C1)C)NC1C(CNC1)O)C | InChI=1S/C11H19N5O.2ClH/c1-7-4-10(16(2)3)15-11(13-7)14-8-5-12-6-9(8)17;;/h4,8-9,12,17H,5-6H2,1-3H3,(H,13,14,15);2*1H
